US07476764B2
Step 1: Preparation of {(2R,3S)-4-(3,5-Difluoro-phenyl)-3-[3-[1-(4-fluoro-phenyl)-ethylcarbamoyl]-5-(1-hydroxy-ethyl)-benzoylamino]-2-hydroxy-butyl}-(3-methoxy-benzyl)-carbamic acid tert-butyl ester.
[(2R,3S)-3-{3-Acetyl-5-[1-(4-fluoro-phenyl)-ethylcarbamoyl]-benzoyl-amino}-4-(3,5-difluoro-phenyl)-2-hydroxy-butyl]-(3-methoxy-benzyl)-carbamic acid tert-butyl ester (10 mg, 0.0134 mmol) was dissolved in MeOH (0.1 mL) and sodium borohydride (0.68 mg, 0.0179 mmol) was added. The reaction mixture was stirred at room temperature for 2 h. The mixture was concentrated and partitioned between ethyl acetate and H2O. The organic layer was separated and concentrated under vacuum to give the title compound (10 mg): HPLC retention time: 2.243 min (method A). MS (ESI) (M+H)+ 750.40.

reactant | [(2R,3S)-3-{3-Acetyl-5-[1-(4-fluoro-phenyl)-ethylcarbamoyl]-benzoyl-amino}-4-(3,5-difluoro-phenyl)-2-hydroxy-butyl]-(3-methoxy-benzyl)-carbamic acid tert-butyl ester | 0.0134 mmol, 10 mg | C(C)(C)(C)OC(N(CC1=CC(=CC=C1)OC)C[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC(C1=CC(=CC(=C1)C(NC(C)C1=CC=C(C=C1)F)=O)C(C)=O)=O)O)=O | C41H44F3N3O7
reactant | sodium borohydride | 0.0179 mmol, 0.68 mg | [BH4-].[Na+]
solvent | MeOH | 0.1 mL | CO | CH4O
product | {(2R,3S)-4-(3,5-Difluoro-phenyl)-3-[3-[1-(4-fluoro-phenyl)-ethylcarbamoyl]-5-(1-hydroxy-ethyl)-benzoylamino]-2-hydroxy-butyl}-(3-methoxy-benzyl)-carbamic acid tert-butyl ester | 10 mg | C(C)(C)(C)OC(N(CC1=CC(=CC=C1)OC)C[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC(C1=CC(=CC(=C1)C(C)O)C(NC(C)C1=CC=C(C=C1)F)=O)=O)O)=O | C41H46F3N3O7
